US03991097
3-n-butylamino-4-phenoxy-5-sulfamyl-benzoic acid
2.5 Grams of methyl 3-n-butylamino-4-phenoxy-5-sulfamyl-benzoate were dissolved in 50 ml of 1N NaOH and the solution was heated for 30 minutes on a steam bath. The solution was then filtered and carefully acidified. 3-n-butylamino-4-phenoxy-5-sulfamyl-benzoic acid precipitation in flakes which melted at 229°-231° C. After recrystallization from ethanol/water, the melting point was 235° C.

reactant | methyl 3-n-butylamino-4-phenoxy-5-sulfamyl-benzoate | C(CCC)NC=1C=C(C(=O)OC)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C18H22N2O5S
solvent | NaOH | 1N, 50 ml | [OH-].[Na+]
product | 3-n-butylamino-4-phenoxy-5-sulfamyl-benzoic acid | C(CCC)NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H20N2O5S
